US05091398
a) (2-Methylpent-2-yl)hydrazine hydrochloride
Acetone azine (93 g) is added dropwise under reflux to a solution of propylmagnesium bromide, prepared from 44.3 g of magnesium and 224 g of propyl bromide in 350 ml of ether. After heating under reflux for 3 days, the mixture is poured into an ice-cooled aqueous ammonium chloride solution (500 ml) and the product is extracted using ether. The ether phase is concentrated, and the oily residue is stirred at room temperature for 2 h in 200 ml of water and 100 ml of conc. hydrochloric acid. The non-basic components are removed using tert-butyl methyl ether and the aqueous solution is concentrated on a rotary evaporator.

reactant | Acetone azine | 93 g | CC(=NN=C(C)C)C | C6H12N2
reactant | propylmagnesium bromide | C(CC)[Mg]Br
reactant | magnesium | 44.3 g | [Mg] | Mg
reactant | propyl bromide | 224 g | C(CC)Br | C3H7Br
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | ether | 350 ml | CCOCC | C4H10O
product | (2-Methylpent-2-yl)hydrazine hydrochloride | Cl.CC(C)(CCC)NN | InChI=1S/C6H16N2.ClH/c1-4-5-6(2,3)8-7;/h8H,4-5,7H2,1-3H3;1H
